US07157464B2
Synthesis of 2-(4-Amino-3-heptafluoropropyl-5-methyl-pyrazol-1-yl)-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 4-Amino-3-heptafluoropropyl-5-methyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/4, Rf=0.42) afforded the title compound as colorless oil. 1H NMR (400 MHz, CDCl3); 6.88–6.94 (d, 2H), 7.22–7.26 (d, 2H), 4.98 (s, 2H), 3.64–3.82 (m, 4H), 3.1–3.22 (m, 4H), 2.98(s, 2H), 2.18 (s, 3H). MS (ES) M+H) expected=501.82, found 502.1.

reactant | 4-Amino-3-heptafluoropropyl-5-methyl-1H-pyrazole | NC=1C(=NNC1C)C(C(C(F)(F)F)(F)F)(F)F | C7H6F7N3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl | C12H14Cl2N2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(4-Amino-3-heptafluoropropyl-5-methyl-pyrazol-1-yl)-1-[4-(4-chloro-phenyl)-piperazin-1-yl]-ethanone | NC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl)C(C(C(F)(F)F)(F)F)(F)F | C19H19ClF7N5O
